US07544697B2
The method described in Part E of Examples 1 through 4 was used to treat 1,5-dimethyl-1H-pyrazole-3-carboxamide (5.0 g, 36 mmol) with phosphorous oxychloride (20 mL) to afford 3.9 g of 1,5-dimethyl-1H-pyrazole-3-carbonitrile. A small portion was recrystallized from hexane to provide the following data.

reactant | 1,5-dimethyl-1H-pyrazole-3-carboxamide | 36 mmol, 5.0 g | CN1N=C(C=C1C)C(=O)N | C6H9N3O
solvent | phosphorous oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1,5-dimethyl-1H-pyrazole-3-carbonitrile | 3.9 g | CN1N=C(C=C1C)C#N | C6H7N3
